US08350044B2
Preparation of (4-chloro-2-pyridin-3-yl-thiazol-5-yl)-ethyl-carbamic acid tert-butyl ester (Compound 304)
To a solution of ethyl-(2-pyridin-3-yl-thiazol-5-yl)-carbamic acid tert-butyl ester (3.0 g, 9.82 mmol) in acetonitrile (58 mL) was added N-chlorosuccinimide (2.62 g, 19.64 mmol) in one portion and the reaction mixture was stirred at 45° C. for 16 h. The reaction mixture was concentrated and the crude product was purified by silica gel chromatography (0 to 100% ethyl acetate/hexanes) to afford a red oil (2.24 g, 67%): 1H NMR (300 MHz, CDCl3) δ 9.09 (d, J=1.9 Hz, 1H), 8.68 (dd, J=4.8, 1.6 Hz, 1H), 8.19 (dd, J=5.9, 4.2 Hz, 1H), 7.39 (dd, J=7.6, 5.2 Hz, 1H), 3.68 (q, J=7.2 Hz, 2H), 1.45 (s, 9H), 1.22 (t, J=7.0 Hz, 3H); ESIMS m/z 340 (M+1).

reactant | ethyl-(2-pyridin-3-yl-thiazol-5-yl)-carbamic acid tert-butyl ester | 9.82 mmol, 3.0 g | C(C)(C)(C)OC(N(C1=CN=C(S1)C=1C=NC=CC1)CC)=O | C15H19N3O2S
reactant | N-chlorosuccinimide | 19.64 mmol, 2.62 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 58 mL | C(C)#N | C2H3N
product | (4-chloro-2-pyridin-3-yl-thiazol-5-yl)-ethyl-carbamic acid tert-butyl ester | 2.24 g, 67% | C(C)(C)(C)OC(N(CC)C1=C(N=C(S1)C=1C=NC=CC1)Cl)=O | C15H18ClN3O2S
